US06613786B2
2-Nitro-4,6-dichloroanisole was prepared by the same procedure as described for Step 2 of Preparation 2a except using 2,4-dichloro-6-nitrophenol (52 g), methyl iodide (71 g), and potassium carbonate (41.4 g). Workup gave crude 2-nitro-4,6-dichloroanisole (50 g, 90%) which was used in the next step without purification.

reactant | 2,4-dichloro-6-nitrophenol | 52 g | ClC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])O | C6H3Cl2NO3
reactant | methyl iodide | 71 g | CI | CH3I
reactant | potassium carbonate | 41.4 g | C([O-])([O-])=O.[K+].[K+]
product | 2-nitro-4,6-dichloroanisole | 50 g, 90% | [N+](=O)([O-])C1=C(C(=CC(=C1)Cl)Cl)OC | C7H5Cl2NO3
